US05670531
A. Preparation of (Z)-2-bromomethyl cinnamic acid
A mixture of 2 g (12.34 mmol) of (E) 2-methyl cinnamic acid, 2.19 g (12.34 mmol) of N-bromosuccinimide (NBS) and a catalytic amount of benzoyl peroxide in 6 ml of CCl4 are heated under reflux for hours. The residue is filtered and washed with ether. The organic phase is successively washed with a 1N HCl aqueous solution then with water. It is dried on MgSO4, filtered and evaporated to dryness.

reactant | 2-methyl cinnamic acid | CC1=C(C=CC(=O)O)C=CC=C1 | C10H10O2
reactant | N-bromosuccinimide | 12.34 mmol, 2.19 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 6 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | (Z)-2-bromomethyl cinnamic acid | BrCC1=C(\C=C/C(=O)O)C=CC=C1 | C10H9BrO2
